US04493843
A solution of trifluoroacetic anhydride (1.68 g) in acetone (5 ml) was added to a stirred mixture of 1-methylsulphinylheptadecan-2-one (1.58 g) and sodium iodide (1.8 g) in acetone (10 ml) cooled in an ice bath. The mixture was stirred for a further 10 minutes and then evaporated. Water (50 ml) was added to the residue and the mixture was extracted with diethyl ether (2×40 ml). The ether extract was washed with a solution of sodium thiosulphate (3 g) in water (50 ml), dried over magnesium sulphate and evaporated to give 1-methylthioheptadecan-2-one (1.3 g), m.p. 40° C.

reactant | trifluoroacetic anhydride | 1.68 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-methylsulphinylheptadecan-2-one | 1.58 g | CS(=O)CC(CCCCCCCCCCCCCCC)=O | C18H36O2S
reactant | sodium iodide | 1.8 g | [I-].[Na+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-methylthioheptadecan-2-one | 1.3 g | CSCC(CCCCCCCCCCCCCCC)=O | C18H36OS
